US07868001B2
0.2 mmol (3-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanamine and 1 mmol K2CO3 in dry Toluene were stirred for 30 min at 30° C., added with CDI (0.2 mmol), and kept to stir for 2 h. Then 0.2 mmol 2-morpholinoethanamine and DMAP (cat.) were added and the solution was heated to 60° C. for 2 h. The reaction was concentrated in vacuo and the residue was purified by column chromatography on silica gel to give the 1-(3-(imidazo[1,2-b]pyridazin-2-yl)benzyl)-3-(2-morpholinoethyl)urea.

reactant | (3-(imidazo[1,2-b]pyridazin-2-yl)phenyl)methanamine | 0.2 mmol | N=1C(=CN2N=CC=CC21)C=2C=C(C=CC2)CN | C13H12N4
reactant | K2CO3 | 1 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | CDI | 0.2 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-morpholinoethanamine | 0.2 mmol | O1CCN(CC1)CCN | C6H14N2O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(3-(imidazo[1,2-b]pyridazin-2-yl)benzyl)-3-(2-morpholinoethyl)urea | N=1C(=CN2N=CC=CC21)C=2C=C(CNC(=O)NCCN1CCOCC1)C=CC2 | C20H24N6O2
